US06809199B2
To a stirred solution of 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine (5.0 g, 13.77 mmol, 1 eq) in CCl4 (125 mL) was added N-bromosuccinimide (2.95 g, 16.6 mmol 1.2 eq) and benzoyl peroxide (340 mg, 1.37 mmol, 0.1 eq). The mixture was brought to and maintained at reflux until all the starting material was consumed (approx 3.5 h). The reaction mixture was cooled to 0° C. and the succinimide was filtered off. The solvent was removed under reduced pressure and the product was purified by flash column chromatography on silica gel elufing with 2% Et2O in hexanes giving 4,6-dibromo-3-(bromomethyl)-2-(2,4-difluorophenyl)pyridine. Mass spectrum (ESI) 440.1 (M+1); 442.1 (M+3); 444.1 (M+5); 446.1 (M+7). 1H NMR (500 MHz, CDCl3) δCHCl3: 7.84 (1H, s); 7.50 (1H, m); 7.05 (1H, m); 6.96 (1H, m); 4.44 (2H br s).

reactant | 4,6-dibromo-2-(2,4-difluorophenyl)-3-methylpyridine | 13.77 mmol, 5.0 g, 1 eq | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)F)C | C12H7Br2F2N
reactant | N-bromosuccinimide | 16.6 mmol, 2.95 g, 1.2 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.37 mmol, 340 mg, 0.1 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 125 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,6-dibromo-3-(bromomethyl)-2-(2,4-difluorophenyl)pyridine | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)F)CBr | C12H6Br3F2N
